US08314087B2
To a 10 mL round bottomed flask was added 5-bromo-1-(2-hydroxyethyl)pyrimidin-2(1H)-one (0.088 g, 0.40 mmol), phenylboronic acid (0.098 g, 0.80 mmol), 1,2-dimethoxyethane (2.5 mL) and 2 M sodium carbonate (0.40 mL, 0.80 mmol). The mixture was carefully evacuated and backfilled with N2. This was repeated twice. To the mixture was added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II)dichloromethane adduct (0.029 g, 0.040 mmol). The mixture was again carefully evacuated and backfilled with N2. This was repeated once. The mixture was then heated at 75° C. for 1.5 hours. After cooling to room temperature, the mixture was poured into water (50 mL) and then extracted with EtOAc (2×) and then with 25% iPrOH/CHCl3 (3×). The combined extracts were washed with brine (1×), dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (0 to 2% MeOH (2M NH3)/CH2Cl2) afforded 1-(2-hydroxyethyl)-5-phenylpyrimidin-2(1H)-one (0.061 g, 70% yield) as an off-white solid. MS (ESI, pos. ion.) m/z: 217 (MH+). Calc'd exact mass for C12H12N2O2: 216. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.71 (q, J=5.3 Hz, 2 H), 4.00 (t, J=5.3 Hz, 2 H), 4.95 (t, J=5.6 Hz, 1 H), 7.35 (t, J=7.3 Hz, 1 H), 7.46 (t, J=7.6 Hz, 2 H), 7.61 (d, J=7.4 Hz, 2 H), 8.44 (d, J=3.3 Hz, 1 H), 8.95 (d, J=3.3 Hz, 1 H).

reactant | 5-bromo-1-(2-hydroxyethyl)pyrimidin-2(1H)-one | 0.40 mmol, 0.088 g | BrC=1C=NC(N(C1)CCO)=O | C6H7BrN2O2
reactant | phenylboronic acid | 0.80 mmol, 0.098 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.80 mmol, 2 M, 0.40 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
product | 1-(2-hydroxyethyl)-5-phenylpyrimidin-2(1H)-one | 0.061 g, 70% yield | OCCN1C(N=CC(=C1)C1=CC=CC=C1)=O | C12H12N2O2
